### PR TITLE
Add Boxdot conjecture

### PR DESCRIPTION
**Pull request by jamesj64**
See issue #162.

### CODE REVIEW

File: FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean [hunk 1]
```diff
@@ -0,0 +1,169 @@
...
+
+/--
+`t φ` is the Boxdot translation of a formula `φ`.
+This implementation follows the definition in Steinsvold (AJL).
+-/
+def t (φ : Formula) : Formula :=
+match φ with
+| α ~> β => t α ~> t β
+| □α => □t α & t α
+| _ => φ
```
Comment (Paul-Lez) [inline FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean]:
```suggestion
  match φ with
  | α ~> β => t α ~> t β
  | □α => □t α & t α
  | _ => φ
```

File: FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean [hunk 2]
```diff
@@ -0,0 +1,169 @@
...
+
+
+/--
+  Boxdot Conjecture: every normal modal logic that faithfully interprets KT
+  by the boxdot translation is included in KT.
+-/
+@[category research solved, AMS 3]
+theorem BoxdotConjecture (L : NormalModalLogic) :
+  (∀ φ, L ⊢ ■ φ ↔ KT ⊢ φ) → L ⊆ KT := by
+    sorry
```
Comment (Paul-Lez) [inline FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean]:
```suggestion
theorem BoxdotConjecture (L : NormalModalLogic) :
    (∀ φ, L ⊢ ■ φ ↔ KT ⊢ φ) → L ⊆ KT := by
  sorry
```

File: FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean [hunk 3]
```diff
@@ -0,0 +1,169 @@
...
+open KProof
+open KTProof
+
+
+/--
+If `KProof Γ φ`, then `KTProof Γ φ`.  In other words, KT extends K.
+-/
+@[category API, AMS 3]
+lemma KTExtendsK {Γ φ} : KProof Γ φ → KTProof Γ φ := by
+  intro h; apply lift_K; exact h
```
Comment (Paul-Lez) [inline FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean]: This is a little more conventional (untested)
```suggestion
/--
If `KProof Γ φ`, then `KTProof Γ φ`.  In other words, KT extends K.
-/
@[category API, AMS 3]
lemma KTExtendsK {Γ φ} (h : KProof Γ φ) : KTProof Γ φ :=
  lift_K h
```

File: FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean [hunk 4]
```diff
@@ -0,0 +1,169 @@
...
+* `Imp α β` is implication `(α → β)`.
+* `Conj α β` is conjunction `(α ∧ β)`.
+* `Nec α` is the necessity operator `□α`.
+-/
+inductive Formula : Type
+| Atom : Nat → Formula
+| Falsum : Formula
+| Imp : Formula → Formula → Formula
+| Conj : Formula → Formula → Formula
+| Nec : Formula → Formula
```
Comment (Paul-Lez) [inline FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean]:
```suggestion
  /-- `Atom n` is a propositional variable indexed by `n`. -/ 
  | Atom : Nat → Formula
  /--  `Falsum` is the constant ⊥. -/
  | Falsum : Formula
  /-- `Imp α β` is implication `(α → β)`. -/
  | Imp : Formula → Formula → Formula
  /-- `Conj α β` is conjunction `(α ∧ β)`. -/
  | Conj : Formula → Formula → Formula
  /-- `Nec α` is the necessity operator `□α`. -/
  | Nec : Formula → Formula
```

File: FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean [hunk 5]
```diff
@@ -0,0 +1,169 @@
...
+local notation "⊥" => Falsum
+infixr:80 " ~> " => Formula.Imp
+infixr:85 " & " => Formula.Conj
+notation:max " ~ " φ => φ ~> ⊥
+prefix:95 "□" => Nec
+
+
+/--
+`t φ` is the Boxdot translation of a formula `φ`.
+This implementation follows the definition in Steinsvold (AJL).
```
Comment (Paul-Lez) [inline FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean:87]: Would you mind adding a little about what `t` means/does?

**Review by Paul-Lez — COMMENTED** [review]
Thanks for the PR, this is a really cool addition to the repo!

File: FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean [hunk 6]
```diff
@@ -0,0 +1,176 @@
...
+/--
+`t φ` is the Boxdot translation of a formula `φ`. Roughly, t is the mapping `φ ↦ t φ`
+from the language of monomodal logic into itself that preserves variables and the logical constant `⊥`,
+commutes with the standard truth-functional operators, and is such that `t □φ` = `□t a & t a`.
+This implementation follows the definition in Steinsvold (AJL).
+-/
+def t (φ : Formula) : Formula :=
+  match φ with
+  | α ~> β => t α ~> t β
+  | □α => □t α & t α
```
Comment (mo271) [inline FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean:92]:
```suggestion
  | α ~> β => t α ~> t β
  | □α => □t α & t α
  | α & β => t α & t β
```

Not really sure, but do we need also commutativity with `Conj` without the `Nec` or is this implied somehow?

**Review by mo271 — APPROVED** [review]

File: FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean [hunk 7]
```diff
@@ -0,0 +1,176 @@
...
+| nec {Γ} {α} (_ : KProof ∅ α) : KProof Γ (□ α)
+| distr {Γ} {α β} : KProof Γ (□ (α ~> β) ~> □ α ~> □ β)
+
+
+-- This is an axiomatization of the modal logic KT, which extends K with the T axiom
+inductive KTProof : Set Formula → Formula → Prop
+| lift_K {Γ} {α} (h : KProof Γ α) : KTProof Γ α
+| axT {Γ} {α} : KTProof Γ (□ α ~> α)
+| mp {Γ} {α β} (_ : KTProof Γ (α ~> β)) (_ : KTProof Γ α) : KTProof Γ β
+| nec {Γ} {α} (_ : KTProof ∅ α) : KTProof Γ (□ α)
```
Comment (Paul-Lez) [inline FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean]: It would also be nice to have docstrings for the constructors of these two inductive types (just so people can see what they mean by hovering over them in VS Code for example)

File: FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean [hunk 8]
```diff
@@ -0,0 +1,176 @@
...
+  /-- `Nec α` is the necessity operator `□α`. -/
+  | Nec : Formula → Formula
+
+open Formula
+
+local notation "⊥" => Falsum
+infixr:80 " ~> " => Formula.Imp
+infixr:85 " & " => Formula.Conj
+notation:max " ~ " φ => φ ~> ⊥
+prefix:95 "□" => Nec
```
Comment (Paul-Lez) [inline FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean]: In order to document the notation (that way hovering on e.g. `~>` will yield the docstring for `Formula.Imp`)
```suggestion
@[inherit_doc Falsum]
local notation "⊥" => Falsum

@[inherit_doc Imp]
infixr:80 " ~> " => Imp

@[inherit_doc Conj]
infixr:85 " & " => Conj

/-- `~ φ` means that `φ` imples `⊥`. -/
notation:max " ~ " φ => φ ~> ⊥

@[inherit_doc Nec]
prefix:95 "□" => Nec
```

File: FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean (hunk 6 above)
Comment (jamesj64) [reply FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean:92]: Good catch. The implementation will be simpler if we define conjunction in terms of the other logical connectives, e.g. `P & Q` = `~(P ~> ~Q)`. This way we can leave `t` as is, and also don't need any axiom schemas specifically for the conjunction operator.

File: FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean (hunk 7 above)
Comment (jamesj64) [reply FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean]: Thanks for the suggestions, updated the docs :)

File: FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean [hunk 9]
```diff
@@ -0,0 +1,207 @@
...
+@[reducible]
+def Conj (α β : Formula) : Formula := ~(α ~> ~β)
+
+@[inherit_doc Conj]
+scoped infixr:85 " & " => Conj
+
+/--
+`t φ` is the Boxdot translation of a formula `φ`. Roughly, t is the mapping `φ ↦ t φ`
+from the language of monomodal logic into itself that preserves variables and the logical constant `⊥`,
+commutes with the standard truth-functional operators, and is such that `t □φ` = `□t a & t a`.
```
Comment (Paul-Lez) [inline FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean]: I think this was a typo (?)
```suggestion
commutes with the standard truth-functional operators, and is such that `t □a` = `□t a & t a`.
```

File: FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean [hunk 10]
```diff
@@ -0,0 +1,207 @@
...
+/-- T-axiom schema: every instance of `□α ~> α` is a theorem. -/
+| axT {Γ} {α} : KTProof Γ (□ α ~> α)
+/-- Modus Ponens: if `Γ ⊢ α ~> β` and `Γ ⊢ α`, then `Γ ⊢ β`. -/
+| mp {Γ} {α β} (_ : KTProof Γ (α ~> β)) (_ : KTProof Γ α) : KTProof Γ β
+/-- Necessitation: if `⊢ α` then `⊢ □α`. -/
+| nec {Γ} {α} (_ : KTProof ∅ α) : KTProof Γ (□ α)
+
+
+open KProof
+open KTProof
```
Comment (Paul-Lez) [inline FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean]:
```suggestion
open KProof KTProof
```

File: FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean [hunk 11]
```diff
@@ -0,0 +1,207 @@
...
+    exact KTProof.nec h
+
+
+/--
+  Boxdot Conjecture: every normal modal logic that faithfully interprets KT
+  by the boxdot translation is included in KT.
+-/
+@[category research solved, AMS 3]
+theorem BoxdotConjecture (L : NormalModalLogic) :
+    (∀ φ, L ⊢ ■ φ ↔ KT ⊢ φ) → L ⊆ KT := by
```
Comment (Paul-Lez) [inline FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean]:
```suggestion
theorem BoxdotConjecture (L : NormalModalLogic) (H : ∀ φ, L ⊢ ■ φ ↔ KT ⊢ φ) : L ⊆ KT := by
```

File: FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean [hunk 12]
```diff
@@ -0,0 +1,207 @@
...
+  case nec =>
+    intro φ h
+    simp [Set.mem_setOf_eq] at *
+    exact KTProof.nec h
+
+
+/--
+  Boxdot Conjecture: every normal modal logic that faithfully interprets KT
+  by the boxdot translation is included in KT.
+-/
```
Comment (Paul-Lez) [inline FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean]:
```suggestion
/--
Boxdot Conjecture: every normal modal logic that faithfully interprets KT
by the boxdot translation is included in KT.
-/
```

File: FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean [hunk 13]
```diff
@@ -0,0 +1,207 @@
...
+@[category API, AMS 3]
+lemma KTExtendsK {Γ φ} (h : KProof Γ φ) : KTProof Γ φ :=
+  lift_K h
+
+/--
+  A “normal modal logic” L is any `Set Formula` such that:
+    1. If `K ⊢ φ`, then `φ ∈ L`          (L extends K)
+    2. If `φ ∈ L` and `(φ ~> ψ) ∈ L`, then `ψ ∈ L`  (Closed under MP)
+    3. If `φ ∈ L`, then `□φ ∈ L`          (Closed under Necessitation)
+-/
```
Comment (Paul-Lez) [inline FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean]:
```suggestion
/--
A “normal modal logic” L is any `Set Formula` such that:
  1. If `K ⊢ φ`, then `φ ∈ L`          (L extends K)
  2. If `φ ∈ L` and `(φ ~> ψ) ∈ L`, then `ψ ∈ L`  (Closed under MP)
  3. If `φ ∈ L`, then `□φ ∈ L`          (Closed under Necessitation)
-/
```

File: FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean [hunk 14]
```diff
@@ -0,0 +1,207 @@
...
+scoped infixr:85 " ⊢ " => proves
+scoped notation L " ⊆ " L' =>
+  NormalModalLogic.thms L ⊆ NormalModalLogic.thms L'
+
+
+/--
+`KT` is the specific normal modal logic whose theorems are exactly those provable
+in `KTProof` from the empty context.
+
+This corresponds to K ⊕ (□φ → φ) as in both AJL (Steinsvold) and Jeřábek.
```
Comment (Paul-Lez) [inline FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean]:
```suggestion
This corresponds to `K ⊕ (□φ → φ)` as in both AJL (Steinsvold) and Jeřábek.
```

File: FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean [hunk 15]
```diff
@@ -0,0 +1,207 @@
...
+| nec {Γ} {α} (_ : KProof ∅ α) : KProof Γ (□ α)
+/-- Distribution: every instance of the schema `□(α ~> β) ~> (□α ~> □β)` is a theorem. -/
+| distr {Γ} {α β} : KProof Γ (□ (α ~> β) ~> □ α ~> □ β)
+
+
+/--
+`KTProof Γ φ` denotes that φ is provable from the premises Γ in the normal modal logic KT
+(also called T). KT extends system K by adding the instances of the T-axiom schema `□φ ~> φ` to K’s
+usual axioms and rules of inference.
+-/
```
Comment (Paul-Lez) [inline FormalConjectures/Arxiv/1308.0994/BoxdotConjecture.lean]:
```suggestion
/--
`KTProof Γ φ` denotes that `φ` is provable from the premises `Γ` in the normal modal logic KT
(also called T). KT extends system K by adding the instances of the T-axiom schema `□φ ~> φ` to K’s
usual axioms and rules of inference.
-/
```

**Review by Paul-Lez — APPROVED** [review]
LGTM - thanks!
